US09210927B2
Step 3. (3,5-Dibromo-4-chlorophenyl)methanol
NaBH4 (1.53 g, 40.65 mmol) was added portionwise to a stirred solution of methyl 3,5-dibromo-4-chlorobenzoate (4.45 g, 13.6 mmol) in MeOH (50 mL) at 0° C. The reaction mixture was then stirred at ambient temperature for 8 h. The volatiles were evaporated and the residue was diluted with CH2Cl2 and washed with brine followed by water. The organic layer was dried (Na2SO4), filtered and concentrated to afford the title compound as an off white solid (3.3 g, 80%): 1H NMR (300 MHz, DMSO-d6) δ 7.71 (s, 2H), 5.49 (bs, 1H), 4.48 (d, J=4.5 Hz, 2H); ESIMS m/z 297.9 ([M]+); IR (thin film) 3460, 747, 534 cm−1.

reactant | NaBH4 | 40.65 mmol, 1.53 g | [BH4-].[Na+]
reactant | methyl 3,5-dibromo-4-chlorobenzoate | 13.6 mmol, 4.45 g | BrC=1C=C(C(=O)OC)C=C(C1Cl)Br | C8H5Br2ClO2
solvent | MeOH | 50 mL | CO | CH4O
product | (3,5-Dibromo-4-chlorophenyl)methanol | BrC=1C=C(C=C(C1Cl)Br)CO | C7H5Br2ClO
